US06165707
Five point zero (5.0) grams of 4-hydroxyphthalic acid and 13 g of 3-bromo-1-propanol were allowed to react in dimethylformamide while refluxing with heating in the presence of 10 g of potassium carbonate, a catalytic amount of 18-crown-6 and a catalytic amount of potassium iodide. The reaction was pursued with thin layer chromatography (TLC), heating was stopped when the reaction product became homogeneous and the temperature was lowered to room temperature. The reaction mixture was acetylated by the addition of acetic anhydride and triethylamine. Water was added to the reaction solution thereby the reaction was stopped. This mixture was extracted with ethyl acetate and the organic layer was concentrated. A methanol solution containing potassium hydroxide was added thereto and refluxed with heating, thereby white solids were formed. The solids formed were filtered, washed with ethyl acetate, and then dried, thereby 1.7 g of dipotassium 4-(3-hydroxypropoxy)-phthalate was obtained.

reactant | 4-hydroxyphthalic acid | OC=1C=C(C(C(=O)O)=CC1)C(=O)O | C8H6O5
reactant | 3-bromo-1-propanol | 13 g | BrCCCO | C3H7BrO
reactant | potassium carbonate | 10 g | C([O-])([O-])=O.[K+].[K+]
reactant | 18-crown-6 | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | potassium iodide | [I-].[K+]
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | dipotassium 4-(3-hydroxypropoxy)-phthalate | 1.7 g | OCCCOC=1C=C(C(C(=O)[O-])=CC1)C(=O)[O-].[K+].[K+] | InChI=1S/C11H12O6.2K/c12-4-1-5-17-7-2-3-8(10(13)14)9(6-7)11(15)16;;/h2-3,6,12H,1,4-5H2,(H,13,14)(H,15,16);;/q;2*+1/p-2
